US04417050
To a 500 ml 3-neck round bottom flask equipped with an addition funnel, septum, thermometer and an argon inlet was added 150 ml of anhydrous diethyl ether and 94 ml of 1.6 molar butyllithium solution (in hexane). The system was cooled to -120° C. and 23.85 gm of 5-bromopyrimidine in 75 ml of tetrahydrofuran was added over 2 hours. After addition of the 5-bromopyrimidine, the system was stirred for an additional 45 minutes. At this time, 18.3 ml of 4-methoxybenzyaldehyde in 75 ml of tetrahydrofuran was added to the system while still maintaining a temperature of -120° C. The system was kept at -120° C. for an additional 5 hours after addition of the 2,4-dichlorobenzyldehyde and afterwards the system was allowed to come to room temperature. After 10 hours at room temperature, the system was quenched with saturated ammonium chloride (in water). The system was adjusted to pH2 with concentrated HCl solution. The product was extracted with methylene chloride. The methylene chloride was washed with a 10% NaOH solution and then dried over sodium sulfate. The methylene chloride was removed by stripping and the residue triturated with hexane to give 12.93 gm of the 5-pyrimidyl-4-methoxyphenylcarbinol.

reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | butyllithium | 1.6 molar, 94 ml | C(CCC)[Li]
reactant | 5-bromopyrimidine | 23.85 gm | BrC=1C=NC=NC1 | C4H3BrN2
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 5-pyrimidyl-4-methoxyphenylcarbinol | 12.93 gm | N1=C(N=CC=C1)C=1C(=CC=C(C1)CO)OC | C12H12N2O2
